* ==========================================================================
* @part: BC817-25
* @family: bjt
* @source: Nexperia
* @url: https://assets.nexperia.com/documents/spice-model/BC817-25.txt
* @origin-file: manual/nexperia/BC817-25.txt
* @retrieved: 2026-09-24
* @licence: no licence or copyright text in the vendor file (terms unknown)
* @added-by: garv.singh
* @pins: BC817_25: 1 2 3
* The complete origin file follows, unchanged.
* ==========================================================================

**********************************************************
*
* BC817_25
*
* Nexperia
*
* General purpose NPN transistor
* IC   = 500 mA
* VCEO = 45 V 
* hFE  = 160 - 400 @ 1V/100mA
* 
*
*
*
* Package pinning does not match Spice model pinning.
* Package: SOT 23
* 
* Package Pin 1: Base
* Package Pin 2: Emitter
* Package Pin 3: Collector
* 
*
* Extraction date (week/year): 42/2018
* Spicemodel includes temperature dependency
*
**********************************************************
*#
*
* Diode D1, Transistor Q2 and resistor RQ 
* are dedicated to improve modeling of quasi
* saturation area and reverse mode operation
* and do not reflect physical devices.
* 
.SUBCKT BC817_25 1 2 3
Q1 1 2 3 Transistor 0.9457
Q2 11 2 3 Transistor 0.05425
RQ 1 11 200
D1 2 1 Diode
*
.MODEL Transistor NPN
+ IS = 3.019E-014
+ NF = 0.9806
+ ISE = 1.422E-015
+ NE = 1.396
+ BF = 285
+ IKF = 1.266
+ VAF = 84.84
+ NR = 0.9797
+ ISC = 1.068E-014
+ NC = 1.357
+ BR = 48.58
+ IKR = 2.924
+ VAR = 25
+ RB = 40
+ IRB = 0.0005
+ RBM = 4.7
+ RE = 0.2672
+ RC = 0.2846
+ XTB = 1.423
+ EG = 1.11
+ XTI = 5.53
+ CJE = 4.844E-011
+ VJE = 0.6927
+ MJE = 0.3338
+ TF = 6.757E-010
+ XTF = 10.18
+ VTF = 2
+ ITF = 1.09
+ PTF = 0
+ CJC = 8.872E-012
+ VJC = 0.5287
+ MJC = 0.3619
+ XCJC = 1
+ TR = 4E-007
+ CJS = 0
+ VJS = 0.75
+ MJS = 0.333
+ FC = 0.9552
*
.MODEL Diode D
+ IS = 1.208E-015
+ N = 0.9716
+ BV = 1000
+ IBV = 0.001
+ RS = 515.4
+ CJO = 0
+ VJ = 1
+ M = 0.5
+ FC = 0
+ TT = 0
+ EG = 1.11
+ XTI = 3
.ENDS
*
