* ==========================================================================
* @part: BC817-40
* @family: bjt
* @source: Nexperia
* @url: https://assets.nexperia.com/documents/spice-model/BC817-40.txt
* @origin-file: manual/nexperia/BC817-40.txt
* @retrieved: 2026-09-24
* @licence: no licence or copyright text in the vendor file (terms unknown)
* @added-by: garv.singh
* @pins: BC817_40: 1 2 3
* The complete origin file follows, unchanged.
* ==========================================================================

**********************************************************
*
* BC817_40
*
* Nexperia
*
* General purpose NPN transistor
* IC   = 500 mA
* VCEO = 45 V 
* hFE  = 250 - 600 @ 1V/100mA
* 
*
*
*
* Package pinning does not match Spice model pinning.
* Package: SOT 23
* 
* Package Pin 1: Base
* Package Pin 2: Emitter
* Package Pin 3: Collector
* 
*
* Extraction date (week/year): 42/2018
* Spicemodel includes temperature dependency
*
**********************************************************
*# 
*
* Diode D1, Transistor Q2 and resistor RQ 
* are dedicated to improve modeling of quasi
* saturation area and reverse mode operation
* and do not reflect physical devices.
*
.SUBCKT BC817_40 1 2 3
Q1 1 2 3 Transistor 0.918
Q2 11 2 3 Transistor 0.08204
RQ 1 11 76.66
D1 2 1 Diode
*
.MODEL Transistor NPN
+ IS = 5.244E-014
+ NF = 0.9753
+ ISE = 1.62E-015
+ NE = 1.301
+ BF = 440
+ IKF = 0.5843
+ VAF = 48.46
+ NR = 0.9751
+ ISC = 1.068E-014
+ NC = 1.357
+ BR = 50.35
+ IKR = 3.385
+ VAR = 25
+ RB = 43
+ IRB = 0.0003908
+ RBM = 1.201
+ RE = 0.1312
+ RC = 0.2327
+ XTB = 1.338
+ EG = 1.11
+ XTI = 6.013
+ CJE = 4.377E-011
+ VJE = 0.6604
+ MJE = 0.3252
+ TF = 6.08E-010
+ XTF = 10.18
+ VTF = 2
+ ITF = 1.09
+ PTF = 0
+ CJC = 8.628E-012
+ VJC = 0.5162
+ MJC = 0.3621
+ XCJC = 1
+ TR = 3.5E-007
+ CJS = 0
+ VJS = 0.75
+ MJS = 0.333
+ FC = 0.9552
.MODEL Diode D
+ IS = 2.029E-015
+ N = 0.9739
+ BV = 1000
+ IBV = 0.001
+ RS = 829.9
+ CJO = 0
+ VJ = 1
+ M = 0.5
+ FC = 0
+ TT = 0
+ EG = 1.11
+ XTI = 3
.ENDS
*
