* ==========================================================================
* @part: BC546-BC560
* @family: bjt
* @source: Zetex
* @url: https://ngspice.sourceforge.io/model-parameters/MicroCap-LIBRARY.7z (Micro-Cap 12 library, Spectrum Software)
* @origin-file: ngspice/MicroCap-LIBRARY/MicroCap-LIBRARY-for-ngspice/zetex.lib
* @retrieved: 2026-09-24
* @licence: grant: "It is supplied free of charge by Zetex for the purpose of research and design and may be used or copied intact (including this notice) for that purpose only."; notice: "(C) 1996 ZETEX PLC The copyright in this model and the design embodied belong to"
* @added-by: nav
* @pins: BC546BP_ZX: 1 2 3
* @pins: BC547BP_ZX: 1 2 3
* @pins: BC548BP_ZX: 1 2 3
* @pins: BC549BP_ZX: 1 2 3
* @pins: BC550BP_ZX: 1 2 3
* @pins: BC556AP_ZX: 1 2 3
* @pins: BC557AP_ZX: 1 2 3
* @pins: BC558AP_ZX: 1 2 3
* @pins: BC559AP_ZX: 1 2 3
* @pins: BC560AP_ZX: 1 2 3
* Definitions below are copied verbatim from the origin file.
* ==========================================================================

* ---- original file header ----
*ZETEX  BC80716 Spice model    Last revision  27/2/03
*
* ---- end of original file header ----

* ---- vendor notice (copied intact) ----
*
* For later versions of Spice use the following parameter to obtain
* better zener voltage variation over temperature.
* TBV1=.61E-3
*
*                          (C)  1996 ZETEX PLC
*
*   The copyright in this model  and  the design embodied belong to
*   Zetex PLC ("Zetex"). It is supplied free of charge by Zetex for
*   the purpose  of research  and design  and may be used or copied
*   intact (including this notice) for that purpose only. All other
*   rights  are  reserved.  The model  is believed  accurate but no
*   condition or warranty as to its  merchantability or fitness for
*   purpose  is  given  and  no liability  in respect of any use is
*   accepted by Zetex PLC, its distributors or agent.
*
*
*   Zetex PLC, Fields New Road, Chadderton, Oldham  OL9 8NP
*   ZETEX   BZX84C9V1   Spice Model   Last Revision 1/10/96
*

* ---- vendor notice (copied intact) ----
*
* For later versions of Spice use the following parameter to obtain
* better zener voltage variation over temperature.
* TBV1=.63E-3
*
*                          (C)  1996 ZETEX PLC
*
*   The copyright in this model  and  the design embodied belong to
*   Zetex PLC ("Zetex"). It is supplied free of charge by Zetex for
*   the purpose  of research  and design  and may be used or copied
*   intact (including this notice) for that purpose only. All other
*   rights  are  reserved.  The model  is believed  accurate but no
*   condition or warranty as to its  merchantability or fitness for

*
*   ZETEX  BC546BP Spice model     Last revision  4/90
*
.SUBCKT BC546BP_ZX 1 2 3
*
Q1 1 2 3 BC546BP
*
.MODEL BC546BP NPN IS =1.8E-14 ISE=5.0E-14 NF =.9955 NE =1.46 BF =400 BR =35.5
+IKF=.14 IKR=.03 ISC=1.72E-13 NC =1.27 NR =1.005 RB =.56 RE =.6 RC =.25 VAF=80
+VAR=12.5 CJE=13E-12 TF =.64E-9 CJC=4E-12 TR =50.72E-9 VJC=.54 MJC=.33
.ENDS

*
*   ZETEX  BC547BP Spice model     Last revision  4/90
*
.SUBCKT BC547BP_ZX 1 2 3
*
Q1 1 2 3 BC547BP
*
.MODEL BC547BP NPN IS =1.8E-14 ISE=5.0E-14 NF =.9955 NE =1.46 BF =400 BR =35.5
+IKF=.14 IKR=.03 ISC=1.72E-13 NC =1.27 NR =1.005 RB =.56 RE =.6 RC =.25 VAF=80
+VAR=12.5 CJE=13E-12 TF =.64E-9 CJC=4E-12 TR =50.72E-9 VJC=.54 MJC=.33
.ENDS

*
*   ZETEX  BC548BP Spice model     Last revision  4/90
*
.SUBCKT BC548BP_ZX 1 2 3
*
Q1 1 2 3 BC548BP
*
.MODEL BC548BP NPN IS =1.8E-14 ISE=5.0E-14 NF =.9955 NE =1.46 BF =400 BR =35.5
+IKF=.14 IKR=.03 ISC=1.72E-13 NC =1.27 NR =1.005 RB =.56 RE =.6 RC =.25 VAF=80
+VAR=12.5 CJE=13E-12 TF =.64E-9 CJC=4E-12 TR =50.72E-9 VJC=.54 MJC=.33
.ENDS

*
*   ZETEX  BC549BP Spice model     Last revision  4/90
*
.SUBCKT BC549BP_ZX 1 2 3
*
Q1 1 2 3 BC549BP
*
.MODEL BC549BP NPN IS =1.8E-14 ISE=5.0E-14 NF =.9955 NE =1.46 BF =400 BR =35.5
+IKF=.14 IKR=.03 ISC=1.72E-13 NC =1.27 NR =1.005 RB =.56 RE =.6 RC =.25 VAF=80
+VAR=12.5 CJE=13E-12 TF =.64E-9 CJC=4E-12 TR =50.72E-9 VJC=.54 MJC=.33
.ENDS

*
*   ZETEX  BC550BP Spice model     Last revision  4/90
*
.SUBCKT BC550BP_ZX 1 2 3
*
Q1 1 2 3 BC550BP
*
.MODEL BC550BP NPN IS =1.8E-14 ISE=5.0E-14 NF =.9955 NE =1.46 BF =400 BR =35.5
+IKF=.14 IKR=.03 ISC=1.72E-13 NC =1.27 NR =1.005 RB =.56 RE =.6 RC =.25 VAF=80
+VAR=12.5 CJE=13E-12 TF =.64E-9 CJC=4E-12 TR =50.72E-9 VJC=.54 MJC=.33
.ENDS

*
*   ZETEX  BC556AP Spice model    Last revision  4/90
*
.SUBCKT BC556AP_ZX 1 2 3
*
Q1 1 2 3 BC556AP
*
.MODEL BC556AP PNP IS =1.149E-14 ISE=5E-14 NF =.9872 NE =1.4 BF =330 BR =13
+IKF=.1 IKR=.012 ISC=1.43E-14 NC =1.1 NR =.996 RB =.2 RE =.4 RC =.95 VAR=8.15
+VAF=84.56 CJE=16E-12 TF =.493E-9 CJC=10.5E-12 TR =73.55E-9 MJC=.415 VJC=.565
.ENDS

*
*   ZETEX  BC557AP Spice model    Last revision  4/90
*
.SUBCKT BC557AP_ZX 1 2 3
*
Q1 1 2 3 BC557AP
*
.MODEL BC557AP PNP IS =1.149E-14 ISE=5E-14 NF =.9872 NE =1.4 BF =330 BR =13
+IKF=.1 IKR=.012 ISC=1.43E-14 NC =1.1 NR =.996 RB =.2 RE =.4 RC =.95 VAR=8.15
+VAF=84.56 CJE=16E-12 TF =.493E-9 CJC=10.5E-12 TR =73.55E-9 MJC=.415 VJC=.565
.ENDS

*
*   ZETEX  BC558AP Spice model    Last revision  4/90
*
.SUBCKT BC558AP_ZX 1 2 3
*
Q1 1 2 3 BC558AP
*
.MODEL BC558AP PNP IS =1.149E-14 ISE=5E-14 NF =.9872 NE =1.4 BF =330 BR =13
+IKF=.1 IKR=.012 ISC=1.43E-14 NC =1.1 NR =.996 RB =.2 RE =.4 RC =.95 VAR=8.15
+VAF=84.56 CJE=16E-12 TF =.493E-9 CJC=10.5E-12 TR =73.55E-9 MJC=.415 VJC=.565
.ENDS

*
*   ZETEX  BC559AP Spice model    Last revision  4/90
*
.SUBCKT BC559AP_ZX 1 2 3
*
Q1 1 2 3 BC559AP
*
.MODEL BC559AP PNP IS =1.149E-14 ISE=5E-14 NF =.9872 NE =1.4 BF =330 BR =13
+IKF=.1 IKR=.012 ISC=1.43E-14 NC =1.1 NR =.996 RB =.2 RE =.4 RC =.95 VAR=8.15
+VAF=84.56 CJE=16E-12 TF =.493E-9 CJC=10.5E-12 TR =73.55E-9 MJC=.415 VJC=.565
.ENDS

*
*   ZETEX  BC560AP Spice model    Last revision  4/90
*
.SUBCKT BC560AP_ZX 1 2 3
*
Q1 1 2 3 BC560AP
*
.MODEL BC560AP PNP IS =1.149E-14 ISE=5E-14 NF =.9872 NE =1.4 BF =330 BR =13
+IKF=.1 IKR=.012 ISC=1.43E-14 NC =1.1 NR =.996 RB =.2 RE =.4 RC =.95 VAR=8.15
+VAF=84.56 CJE=16E-12 TF =.493E-9 CJC=10.5E-12 TR =73.55E-9 MJC=.415 VJC=.565
.ENDS
