* ==========================================================================
* @part: 1N4148WS
* @family: diodes
* @source: Vishay
* @url: https://www.vishay.com/doc?85515
* @origin-file: vishay/1N4148WS.txt
* @retrieved: 2026-09-24
* @licence: notice: "Copyright: Thomatronik GmbH, Germany"
* @added-by: garv.singh
* @pins: d1n4148ws: 1 2
* @patched: spiceconv dots (6 change(s)), r-model (4 change(s)), func-space (1 change(s))
* The complete origin file follows (modified, see @patched).
* ==========================================================================

**********************************

* Model created by               *

*   Uni.Dipl.-Ing. Arpad Buermen *

*   arpad.burmen@ieee.org        *

* Copyright:                     *

*   Thomatronik GmbH, Germany    *

*   info@thomatronik.de          *

**********************************

* March 2001

*   SPICE3

.subckt d1n4148ws 1 2

ddio 1 10 legd

.model legd d is = 2.36581E-008 n = 2.60607 rs = 0.97235  eg = 1.1477 xti = 3.84354  cjo = 4.00501E-012 vj = 5 m = 0.25 fc = 0.5  tt = 1.368423e-008 af = 1 kf = 0

vf 10 20 0

bf 20 2 v=600 * i(vf) / ( abs( v(51) * 10 / v(30) ) + 1 )

i1 0 30 1e-3

r1 30 0 25.86417 tc1=3.331667e-003 tc2=0


h2 50 0 vf 500

rtf1 50 51 10000

ctf 51 0 240p

rtf2 51 0 1E+007

dbv1 1 90 dbvmod

dbv2 2 90 dbvmod

.model dbvmod d is=1e-15 n=2 rs=1 bv=110 ibv=0.1

rl 1 2 6e9 tc1=-0.0068 tc2=0


.ends
